US04857301
Dissolve 1.14 g of 4-aminomethylpiperidine and 2.18 g of di-tert-butyl dicarbonate in 10 ml of dichloromethane. Stir 12 hours at room temperature. Dilute the mixture with 40 ml of dichloromethane and wash with saturated NaCl solution. Dry the organic layer with anhydrous magnesium sulfate and evaporate the solvent to obtain the product, 4-tert butyloxycarbonylaminomethyl piperidine.

reactant | 4-aminomethylpiperidine | 1.14 g | NCC1CCNCC1 | C6H14N2
reactant | di-tert-butyl dicarbonate | 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-tert butyloxycarbonylaminomethyl piperidine | C(C)(C)(C)OC(=O)NCC1CCNCC1 | C11H22N2O2
